US08202879B2
4-Hydroxyquinazoline-6-carboxylic acid methyl ester (XII-1, 4.0 g) was dissolved in tetrahydrofuran (120 ml), N,O-dimethylhydroxylamine hydrochloride (5.7 g) was added, and 2 mol/L iPrMgCl tetrahydrofuran solution (59 ml) was added dropwise over 30 minutes. After completion of addition, the mixture was stirred for 30 minutes under ice cooling and, after completion of the reaction, 40 ml of 2 mol/L hydrochloric acid was added dropwise. The mixture was neutralized with aqueous saturated sodium bicarbonate solution, and extracted with chloroform, and the organic layer was washed with aqueous sodium chloride solution, and dried over sodium sulfate. After concentration, the crystalline residue was purified by silica gel column chromatography (eluting ethyl acetate: methanol=9:1) to obtain 4-hydroxyquinazoline-6-carboxylic acid methoxymethylamide (XIII-1, 2.9 g) as a white solid.

reactant | 4-Hydroxyquinazoline-6-carboxylic acid methyl ester | 4.0 g | COC(=O)C=1C=C2C(=NC=NC2=CC1)O | C10H8N2O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.7 g | Cl.CNOC
reactant | hydrochloric acid | 2 mol/L, 40 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-hydroxyquinazoline-6-carboxylic acid methoxymethylamide | 2.9 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)O | C11H11N3O3
